* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                          *
*                                                       *
* Cell Name  : INDct_TEST2                              *
* Netlisted  : Mon Mar 21 15:55:05 2016                 *
* PVS Version: 14.14-s507 Mon Mar 30 17:55:00 PDT 2015 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos_hs) nmos_hs nsd(D) poly_rout(G) nsd(S) pwell(B)
*.DEVTMPLT 1 MN(nmos_hs_top) nmos_hs_top nsd_top(D) poly_top(G) nsd_top(S) back_gate(B)
*.DEVTMPLT 2 MP(pmos_hs) pmos_hs psd(D) poly_rout(G) psd(S) nwell(B)
*.DEVTMPLT 3 MP(pmos_hs_4_top) pmos_hs_top psd_top(D) poly_top(G) psd_top(S)
*.DEVTMPLT 4 R(resistor) ppoly_res poly_rout(PLUS) poly_rout(MINUS) nwell(B)
*.DEVTMPLT 5 R(resistor) ppoly_res_h poly_rout(PLUS) poly_rout(MINUS) nwell(B)
*.DEVTMPLT 6 C(capacitor) mim_cap_top MIM_top(T) met5_top(B)
*.DEVTMPLT 7 L(ind3n30a02g4) ind3n30 metF_ind_orth(PLUS) metF_ind_orth(MINUS)
*.DEVTMPLT 8 L(ind3n60a02g4) ind3n60 metF_ind_orth(PLUS) metF_ind_orth(MINUS)
*.DEVTMPLT 9 ind3n60_1n80a2g4_CT() ind3n60_ct metF_ind_orth(PLUS) metF_ind_orth(MINUS) met5_ind(CT)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M5_top_MF_top$$1                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M5_top_MF_top$$1 1
** N=1 EP=1 FDC=0
.ends M5_top_MF_top$$1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: INDct_TEST2                                 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt INDct_TEST2 1 2 5
** N=5 EP=3 FDC=2
X0 1 M5_top_MF_top$$1 $T=373960 498720 0 0 $X=370150 $Y=494890
X1 1 M5_top_MF_top$$1 $T=373990 540940 0 0 $X=370180 $Y=537110
C0 2 1 3.5544e-12 $[capacitor] $X=71260 $Y=340810 $dt=6
X3 2 5 1 ind3n60_1n80a2g4_CT $X=217580 $Y=251450 $dt=9
.ends INDct_TEST2
